US06559145B2
N-(4-Chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxamide [P.5, X=Cl, Y=Iodo].
Iodomethane (0.6 mL) is added to a mixture of N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxamide (Preparation 22, 0.196 g) and triethyl-amine (70 μL) in acetonitrile (10 mL) and the mixture is stirred at room temperature for 48 h. The reaction mixture is concentrated, and the residue is dissolved in chloroform and water. The organic phase is dried (Na2SO4) and concentrated in vacuo. The crude product is purified by flash chromatography on silica gel (240-400 mesh, 7 g) eluting with 2% methanol/chloroform. The product fractions are pooled and concentrated in vacuo to give 0.16 g of the title compound as a yellow solid. Physical characteristics: mp 207-208° C.; 1H NMR (400 MHz, CDCl3) δ 4.39, 4.70, 7.33, 9.0, 9.1, 10.0; IR (drift) 1676, 1608, 1574, 1550, 1493, 1470, 1397, 1393, 1370, 1320, 1267, 1257, 812, 673, 666 cm−1; MS (EI) m/z 454 (M+, 61); HRMS (FAB) m/z 454.9767 (C16H12ClIN4O2+H). Anal. Found: C, 42.10; H, 2.61; N, 12.22.

reactant | Iodomethane | 0.6 mL | IC | CH3I
reactant | N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxamide | 0.196 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(NN2)N=CC(=C3)I)=O)C=C1 | C15H10ClIN4O2
reactant | triethyl-amine | 70 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-Chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxamide | 0.16 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(N2)C)N=CC(=C3)I)=O)C=C1 | C16H12ClIN4O2
